US07897607B2
1-Methyl-5-nitropyridin-2(1H)-one
To a mixture containing 20.0 ml (211.40 mmol) of dimethyl sulfate and 45 ml of 3N sodium hydroxide was added 4.00 g (28.55 mmol) of 2-hydroxy-5-nitropyridine in portions over 15 min. After complete addition, the reaction was allowed to stir at 25° C. overnight. The reaction was acidified with 1N HCl and the solids filtered, washed with ethanol and dried to afford 1.31 g (29.77%) of product.

reactant | dimethyl sulfate | 211.40 mmol, 20.0 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium hydroxide | 3N, 45 ml | [OH-].[Na+]
reactant | 2-hydroxy-5-nitropyridine | 28.55 mmol, 4.00 g | OC1=NC=C(C=C1)[N+](=O)[O-] | C5H4N2O3
reactant | HCl | 1N | Cl | ClH
product | 1-Methyl-5-nitropyridin-2(1H)-one | 1.31 g, 29.77% | CN1C(C=CC(=C1)[N+](=O)[O-])=O | C6H6N2O3
